US04960776
4-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]-1-piperazinecarboxamide hydrochloride [1:3].
This compound was prepared by the catalytic hydrogenation (palladium on carbon) of 8.0 g (0.02 mole) of N-[2-(dimethylamino)ethyl]-4-(4-nitrophenyl)-1-piperazinecarboxamide in 150 ml of methanol for 1 hour. The filtered mixture was concentrated under reduced pressure to give an oil as residue. The oil was converted to the hydrochloride in ethereal hydrogen chloride. The solid was recrystallized from methanol-water to give 2.0 g (20%) of the title compound as a white solid, m.p. 114°-116° C.

reactant | N-[2-(dimethylamino)ethyl]-4-(4-nitrophenyl)-1-piperazinecarboxamide | 0.02 mole, 8.0 g | CN(CCNC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C15H23N5O3
reactant | hydrogen chloride | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | 4-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]-1-piperazinecarboxamide hydrochloride | 2.0 g, 20% | Cl.NC1=CC=C(C=C1)N1CCN(CC1)C(=O)NCCN(C)C | InChI=1S/C15H25N5O.ClH/c1-18(2)8-7-17-15(21)20-11-9-19(10-12-20)14-5-3-13(16)4-6-14;/h3-6H,7-12,16H2,1-2H3,(H,17,21);1H
